US03992389
1-(5-Acetamido-2-hydroxybenzyl)-4-benzamidopiperidine
4-Acetamidophenol (1.51 g.) and 39.4% aqueous formaldehyde (1.25 ml.) were dissolved in 50% aqueous ethanol, and 4-benzamidopiperidine (2.04 g.) was added. The resulting solution was heated under reflux for 30 minutes then left overnight at room temperature. The white solid was collected and purified by suspending in boiling ethanol and filtering to give the title compound (1.32 g.), m.p. 242° C. (Found: C, 68.15; H, 7.1; N, 11.3.C21H25N3O3 requires C, 68.6; H, 6.9; N, 11.4%).

reactant | 4-Acetamidophenol | 1.51 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | formaldehyde | 1.25 ml | C=O | CH2O
reactant | 4-benzamidopiperidine | 2.04 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(5-Acetamido-2-hydroxybenzyl)-4-benzamidopiperidine | 1.32 g | C(C)(=O)NC=1C=CC(=C(CN2CCC(CC2)NC(C2=CC=CC=C2)=O)C1)O | C21H25N3O3
